US05861417
2.1.2 Synthesis of 3-cyano-3-(3,4-dichlorophenyl)pentanedioic acid diethyl ester
Cool a solution of sodium bis(trimethylsilyl)amide (480 lb, 1M in THF) to about -10° C. and stir. Add a solution of 3,4-dichlorophenylacetonitrile in methyl t-butyl ether (34.5% by weight, 125 lb of solution) at such a rate that the temperature of the reaction mixture does not rise above about 10° C. Combine ethyl bromoacetate (94 lb) and methyl t-butyl ether (about 125 lb) and cool to about -18° C. and then add the solution prepared above over 60-90 minutes. After the reaction is complete, as determined by chromatography, add water (18 gal). Add a 12M aqueous hydrochloric acid solution until the pH is about 4. If the pH falls below 3, use 20% aqueous sodium hydroxide solution to raise the pH to about 4. Separate the layers and extract the organic layer with brine. Evaporate in vacuo at about 40° C. to give a residue. Combine the residue and isopropanol (about 45 lb) and evaporate invacuo at about 40° C. to give a residue. Add isopropanol (190 lb), warm to about 35° C., and then cool to about -10° C. to give a solid. Collect the solid by filtration, rinse with cold isopropanol, and centrifuge to give the title compound as a wet cake containing isopropanol.

reactant | sodium bis(trimethylsilyl)amide | 1M, 480 lb | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 3,4-dichlorophenylacetonitrile | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
reactant | ethyl bromoacetate | 94 lb | BrCC(=O)OCC | C4H7BrO2
reactant | hydrochloric acid | 12M | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methyl t-butyl ether | 125 lb | C(C)(C)(C)OC | C5H12O
solvent | methyl t-butyl ether | about 125 lb | C(C)(C)(C)OC | C5H12O
solvent | isopropanol | 190 lb | C(C)(C)O | C3H8O
solvent | isopropanol | about 45 lb | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 3-cyano-3-(3,4-dichlorophenyl)pentanedioic acid diethyl ester | C(C)OC(CC(CC(=O)OCC)(C1=CC(=C(C=C1)Cl)Cl)C#N)=O | C16H17Cl2NO4
